US07842685B2
To a clear solution of potassium tert-butoxide (0.201 g, 1.79 mmol) and trimethylsulfoxonium iodide (0.394 g, 1.79 mmol) in 5 mL DMSO was added a cloudy mixture of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylvinyl)thiazolo[4,5-c]pyridine (0.500 g, 1.19 mmol) in 20 mL THF rapidly. After 4 h, the reaction mixture was partitioned between EA and sat'd aq NH4Cl, and the organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting material was taken up in DCM and was filtered. The filtrate was collected and adsorbed onto 2 g silica gel and dried in vacuo. The resulting material was purified by silica gel chromatography, 40 g, 0-100% EA/hexanes to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylcyclopropyl)thiazolo[4,5-c]pyridine as a white solid. MS (ESI) m/z: calculated: 432.1; Observed: 433.0 (M++1).

reactant | potassium tert-butoxide | 1.79 mmol, 0.201 g | CC(C)([O-])C.[K+]
reactant | trimethylsulfoxonium iodide | 1.79 mmol, 0.394 g | [I-].C[S+](=O)(C)C
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylvinyl)thiazolo[4,5-c]pyridine | 1.19 mmol, 0.500 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(C=NC(=C2)C(=C)C2=CC=CC=C2)N1)F | C24H19FN2O2S
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-6-(1-phenylcyclopropyl)thiazolo[4,5-c]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(C=NC(=C2)C2(CC2)C2=CC=CC=C2)N1)F | C25H21FN2O2S
